US07795444B2
Preparation of sodium (2-methylthiazol-4-yl)methanesulfonate (26):
4-Chloromethyl-2-methylthiazole (250 mg, 1.69 mmol) is dissolved in H2O (2 mL) and treated with sodium sulfite (224 mg, 1.78 mmol). The reaction mixture is subjected to microwave irradiation for 20 minutes at 200® C. The reaction mixture is diluted with H2O (30 mL) and washed with EtOAc (2×25 mL). The aqueous layer is concentrated to afford 0.368 g of the desired product as a yellow solid. LC/MS ESI+ 194 (M+1, free acid).

reactant | 4-Chloromethyl-2-methylthiazole | 1.69 mmol, 250 mg | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | sodium sulfite | 1.78 mmol, 224 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
product | sodium (2-methylthiazol-4-yl)methanesulfonate | 0.368 g | CC=1SC=C(N1)CS(=O)(=O)[O-].[Na+] | InChI=1S/C5H7NO3S2.Na/c1-4-6-5(2-10-4)3-11(7,8)9;/h2H,3H2,1H3,(H,7,8,9);/q;+1/p-1
